US04266056
To a mixture of 5-cyano-1-(2,6-dimethylphenyl)uracil (0.1 mol) and 80 ml of five percent sodium hydroxide solution, with stirring, is slowly added dimethyl sulfate (0.1 mol). The reaction mixture is stirred for about 2 hours and then filtered, washed with water and dried to yield 5-cyano-1-(2,6-dimethylphenyl)-3-methyluracil, m.p. 198.2-199.5° C.

reactant | 5-cyano-1-(2,6-dimethylphenyl)uracil | 0.1 mol | C(#N)C=1C(NC(N(C1)C1=C(C=CC=C1C)C)=O)=O | C13H11N3O2
reactant | dimethyl sulfate | 0.1 mol | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | 80 ml | [OH-].[Na+]
product | 5-cyano-1-(2,6-dimethylphenyl)-3-methyluracil | C(#N)C=1C(N(C(N(C1)C1=C(C=CC=C1C)C)=O)C)=O | C14H13N3O2
